US04358409
36.6 g (0.495 mol) of tert.-butanol were added dropwise to a mixture of 6.3 g (0.165 mol) of lithium alanate and 100 ml of tetrahydrofuran at 20°-30° C. in the course of 1 hour. The mixture was subsequently stirred at room temperature for 2 hours and was then added dropwise to a solution of 26.1 g (0.15 mol) of trans-3,3-dimethyl-2-acetyl-cyclopropane-carboxylic acid chloride in 75 ml of tetrahydrofuran at -50° to -60° C. When the addition has ended, the mixture was subsequently stirred for 1 hour, without cooling, poured onto a mixture of 30 ml of concentrated sodium chloride and 300 g of ice and extracted twice by shaking with 400 ml of ether each time. The organic phases were first washed with 50 ml of saturated sodium bicarbonate solution and then with 100 ml of water, dried over sodium sulphate and evaporated in vacuo. Distillation of the residue in vacuo gave 12.7 g (62% of theory) of trans-3,3-dimethyl-2-acetyl-cyclopropane-carbaldehyde in the form of a colorless oil with a boiling point of 80°-86° C./10 mbars.

reactant | tert.-butanol | 0.495 mol, 36.6 g | C(C)(C)(C)O | C4H10O
reactant | lithium | 0.165 mol, 6.3 g | [Li] | Li
reactant | trans-3,3-dimethyl-2-acetyl-cyclopropane-carboxylic acid chloride | 0.15 mol, 26.1 g | CC1([C@H]([C@@H]1C(=O)Cl)C(C)=O)C | C8H11ClO2
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | trans-3,3-dimethyl-2-acetyl-cyclopropane-carbaldehyde | 12.7 g, 62% | CC1([C@H]([C@@H]1C=O)C(C)=O)C | C8H12O2
